US05236952
A solution of 1.09 g of ethyl 3,4-dihydroxy-5-nitrophenylglyoxylate in 6 ml of isobutyric anhydride is heated at 110° for 17 hours in the presence of a catalytic amount of conc. sulfuric acid. The reaction mixture is then treated ten times with 10 ml of toluene each time, whereby it is evaporated each time at 80° and 18.7 mbar. The oily residue is distilled in a bulb-tube at 175°-180° and 8.0 Pa. There is obtained ethyl 3,4-diisobutyryloxy-5-nitrophenylglyoxylate.

reactant | ethyl 3,4-dihydroxy-5-nitrophenylglyoxylate | 1.09 g | OC=1C=C(C=C(C1O)[N+](=O)[O-])C(C(=O)OCC)=O | C10H9NO7
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | isobutyric anhydride | 6 ml | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
product | ethyl 3,4-diisobutyryloxy-5-nitrophenylglyoxylate | C(C(C)C)(=O)OC=1C=C(C=C(C1OC(C(C)C)=O)[N+](=O)[O-])C(C(=O)OCC)=O | C18H21NO9
